US06100272
Methyl 4'-(4,5-dihydro-3-methyl-2-oxoimidazol-1-yl)-2'-methylbiphenyl4-carboxylate
Methyl 4'-(4,5-dihydro-2-oxoimidazol-1-yl)-2'-methylbiphenyl-4-carboxylate (D18) (0.208 g, 0.67 mmol) was stirred in dry DMF (5 ml). Potassium t-butoxide (0.10 g, 0.82 mmol) and iodomethane (0.065 ml, 1.0 mmol) were added. The mixture was stirred for 1 h, diluted with ethyl acetate, washed with water and brine, dried (Na2SO4) and evaporated to give a gum. Chromatography on silica eluting with 50% ether in dichloromethane gave the title compound (0.205 g, 94%) as a white solid.

reactant | Methyl 4'-(4,5-dihydro-2-oxoimidazol-1-yl)-2'-methylbiphenyl-4-carboxylate | 0.67 mmol, 0.208 g | O=C1N(CCN1)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)OC)C | C18H18N2O3
reactant | Potassium t-butoxide | 0.82 mmol, 0.10 g | CC(C)([O-])C.[K+]
reactant | iodomethane | 1.0 mmol, 0.065 ml | IC | CH3I
reactant | ether | CCOCC | C4H10O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl 4'-(4,5-dihydro-3-methyl-2-oxoimidazol-1-yl)-2'-methylbiphenyl4-carboxylate | 0.205 g, 94% | CN1C(N(CC1)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)OC)C)=O | C19H20N2O3
